US07732456B2
(1) Preparation of 2-(4-bromo-2-methoxyphenoxy)tetrahydro-2H-pyran
3,4-Dihydro-2H-pyran (2.0 mL) and pyridinium p-toluenesulfonate (370 mg) were added to chloroform solution (30 mL) of 4-bromo-2-methoxyphenol (3.0 g) and stirred at room temperature for 12 hours. Saturated brine was added to the reaction liquid, followed by extraction with chloroform. The organic layer was washed with water and dried over anhydrous magnesium sulfate. Concentrating the solvent under reduced pressure, the residue was purified on silica gel column chromatography (C-200; ethyl acetate:hexane=1:19) to provide the title compound (3.64 g, 86%).

reactant | 3,4-Dihydro-2H-pyran | 2.0 mL | O1CCCC=C1 | C5H8O
reactant | pyridinium p-toluenesulfonate | 370 mg | C1(=CC=C(C=C1)S(=O)(=O)[O-])C.[NH+]1=CC=CC=C1
reactant | chloroform | 30 mL | C(Cl)(Cl)Cl | CHCl3
reactant | 4-bromo-2-methoxyphenol | 3.0 g | BrC1=CC(=C(C=C1)O)OC | C7H7BrO2
solvent | brine | [Cl-].[Na+].O
product | 2-(4-bromo-2-methoxyphenoxy)tetrahydro-2H-pyran | 3.64 g, 86% | BrC1=CC(=C(OC2OCCCC2)C=C1)OC | C12H15BrO3
